US04876343
A solution of 123.1 g (0.38 mol, 2.5% less than theory) of "21 weight percent sodium ethoxide in ethanol" (Aldrich Chemical Co.) is added all at once to a solution of 101 g (0.39 mol) of (S)-2-[(3-ethoxy-1,3-dioxopropyl)amino]-4-methylpentanoic acid, methyl ester in 200 ml of absolute ethanol. There is no heat of reaction. After about two minutes a solid separates (sodium salt of product) and the mixture becomes thick. The mixture is heated at reflux for 30 minutes (complete solution) and then cooled to room temperature (solid reappears). The solid is collected by filtration and washed with diethyl ether. The resulting cake is dissolved by adding to 1 L of ice water with stirring, 400 ml of 1 N hydrochloric acid solution is added and the separated solid is filtered, washed with water and dried one hour under suction to afford (S)-2,5-dihydro-4-hydroxy-5-(2-methylpropyl)-2-oxo-1H-pyrrole-3-carboxylic acid, ethyl ester as a moist solid which is used in the next steps without further purification. TLC (acetic acid, methanol, chloroform, silica gel, iodine) Rf =0.6.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | (S)-2-[(3-ethoxy-1,3-dioxopropyl)amino]-4-methylpentanoic acid, methyl ester | 0.39 mol, 101 g | C(C)OC(CC(=O)N[C@H](C(=O)OC)CC(C)C)=O | C12H21NO5
reactant | sodium | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (S)-2,5-dihydro-4-hydroxy-5-(2-methylpropyl)-2-oxo-1H-pyrrole-3-carboxylic acid, ethyl ester | OC1=C(C(N[C@H]1CC(C)C)=O)C(=O)OCC | C11H17NO4
